US05604229
(1) 4-(Methylthio)benzyl Alcohol
Sodium borohydride (3.78 g) was added to isopropyl alcohol (50 ml) and the mixture was stirred under ice-cooling. Thereto was dropwise added 4-(methylthio)benzaldehyde (15 g) and the mixture was stirred at room temperature for 30 minutes. The solvent was distilled away and water was added to the residue. The mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was distilled away and the residue obtained was recrystallized from hexane-ethyl acetate to give the subject compound (15 g) as white crystals.

reactant | Sodium borohydride | 3.78 g | [BH4-].[Na+]
reactant | 4-(methylthio)benzaldehyde | 15 g | CSC1=CC=C(C=O)C=C1 | C8H8OS
solvent | isopropyl alcohol | 50 ml | C(C)(C)O | C3H8O
product | 4-(Methylthio)benzyl Alcohol | 15 g | CSC1=CC=C(CO)C=C1 | C8H10OS
